US06028116
(B) (Z)-1-(4-Methylsulfonylbenzylidene)-5-dimethylamino-2-methyl-3-indenylacetyl chloride
(Z)-1-(p-methylsulfonylbenzylidene)-5-dimethylamino-2-methyl-3-indenylacetic acid (70 mmol) in THF (500 ml) is allowed to react with oxalylchloride (2 M in CH2Cl2 ; 70 mmol) under reflux conditions (24 hours). The solvent is evaporated to yield the title compound, which is used as such in the next step.

reactant | (Z)-1-(p-methylsulfonylbenzylidene)-5-dimethylamino-2-methyl-3-indenylacetic acid | 70 mmol | CS(=O)(=O)C1=CC=C(\C=C/2\C(=C(C3=CC(=CC=C23)N(C)C)CC(=O)O)C)C=C1 | C22H23NO4S
reactant | oxalylchloride | 70 mmol, 2 M | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | THF | 500 ml | C1CCOC1 | C4H8O
product | (Z)-1-(4-Methylsulfonylbenzylidene)-5-dimethylamino-2-methyl-3-indenylacetyl chloride | CS(=O)(=O)C1=CC=C(\C=C/2\C(=C(C3=CC(=CC=C23)N(C)C)CC(=O)Cl)C)C=C1 | C22H22ClNO3S
